US08075906B2
p-Divinylbenzene.
(Styrylethyl)-trichlorosilane is first synthesized by a platinum-catalyzed mono-hydrosilylation of p-DVB with chlorodimethylsilane in hexane. Kim, I-J.; Faust, R. Polym. Prepr., (Am. Chem. Soc. Div. Polym. Chem) 2000, 41(2), 1309. A styryl-POSS macromer is then prepared by corner capping reaction of incompletely condensed trisilanol (c-C5H9)7Si7O9(OH)3 with (styrylethyl)-trichlorosilane, according to the procedure reported in Haddad, T. S.; Lichtenhan, J. D. Macromolecules 1996, 29, 7302.

reactant | (Styrylethyl)-trichlorosilane | C(=CC1=CC=CC=C1)CC[Si](Cl)(Cl)Cl | C10H11Cl3Si
reactant | chlorodimethylsilane | Cl[SiH](C)C | C2H7ClSi
reactant | hexane | CCCCCC | C6H14
catalyst | platinum | [Pt] | Pt
product | p-Divinylbenzene | C(=C)C1=CC=C(C=C1)C=C | C10H10
